US04775674
1-[4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-1-oxobutyl]-4-phenylpiperazine
This compound, m.p. 277°-279° C., obtained as a dimethylformamide solvate was prepared analogous to Example 15 from 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid and 4-phenylpiperazine.

reactant | 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)O)N1 | C14H13N3O4
reactant | 4-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-1-oxobutyl]-4-phenylpiperazine | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)N2CCN(CC2)C2=CC=CC=C2)N1 | C24H25N5O3
